US06716859B2
2-[1-(6-Chloro-pyridin-2-yl)-1H-[1,2,4]triazol-3ylmethoxy]-benzoic acid (3-trifluoromethyl-benzylidene)-hydrazide
The title compound was prepared from 2-[1-(6-chloro-pyridin-2-yl)-1H-[1,2,4]triazol-3-ylmethoxy]-benzoic acid hydrazide and 3-trifluoromethyl-benzaldehyde by a procedure similar to Example 22. 1H NMR (DMSO-d6): 11.92 (s, 1H), 8.43 (s, 1H), 8.0 (m, 3H), 7.80 (m, 3H), 7.70 (t, J=7.5 Hz, 1H), 7.60 (m, J=7.5 Hz, 1H), 7.45 (d, J=8.4 Hz, 1H), 7.17 (d, J=7.5 Hz, 1H), 5.50 (s, 1H).

reactant | 2-[1-(6-chloro-pyridin-2-yl)-1H-[1,2,4]triazol-3-ylmethoxy]-benzoic acid hydrazide | ClC1=CC=CC(=N1)N1N=C(N=C1)COC1=C(C(=O)NN)C=CC=C1 | C15H13ClN6O2
reactant | 3-trifluoromethyl-benzaldehyde | FC(C=1C=C(C=O)C=CC1)(F)F | C8H5F3O
product | 2-[1-(6-Chloro-pyridin-2-yl)-1H-[1,2,4]triazol-3ylmethoxy]-benzoic acid (3-trifluoromethyl-benzylidene)-hydrazide | FC(C=1C=C(C=NNC(C2=C(C=CC=C2)OCC2=NN(C=N2)C2=NC(=CC=C2)Cl)=O)C=CC1)(F)F | C23H16ClF3N6O2
